US05792763
N-[3-(1-methylpiperidin-4-yl)benzofur-5-yl]phenylsulfonamide hydrochloride
Beginning with a mixture of 0.018 gm (0.07 mMol) 5-amino-3-(l-methylpiperidin-4-yl)benzofuran and 27 μL (0.21 inMol) phenylsulfonyl chloride, 0.0056 gm of the title compound were prepared by the procedure of EXAMPLE 18.

reactant | 5-amino-3-(l-methylpiperidin-4-yl)benzofuran | 0.07 mMol, 0.018 gm | NC=1C=CC2=C(C(=CO2)C2CCN(CC2)C)C1 | C14H18N2O
reactant | phenylsulfonyl chloride | 27 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-[3-(1-methylpiperidin-4-yl)benzofur-5-yl]phenylsulfonamide hydrochloride | 0.0056 gm | Cl.CN1CCC(CC1)C1=COC2=C1C=C(C=C2)NS(=O)(=O)C2=CC=CC=C2 | InChI=1S/C20H22N2O3S.ClH/c1-22-11-9-15(10-12-22)19-14-25-20-8-7-16(13-18(19)20)21-26(23,24)17-5-3-2-4-6-17;/h2-8,13-15,21H,9-12H2,1H3;1H
